US07622480B2
G. Preparation of 1-(2-methoxyethyl)-3-piperidinyl-1H-pyrrolo[2,3-b]pyridine
0.86 g (2.59 mmol) of 4-[1-(2-methoxyethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-piperidine-1-carboxylic acid ethyl ester were added to a solution of 1.71 g (25.9 mmol) of potassium hydroxide in 25 ml of isopropanol. The mixture was refluxed for 20 hours. The solvent was distilled off and cold water was added. This solution was acidified with concentrated hydrochloric acid and then basified with 8 N aqueous sodium hydroxide solution. This aqueous solution was extracted twice with ethyl acetate. The organic phase was washed with water and brine, dried over magnesium sulphate, filtered and evaporated under reduced pressure. 0.42 g (68% of yield) of the expected product were obtained as an oil.

reactant | 4-[1-(2-methoxyethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-piperidine-1-carboxylic acid ethyl ester | 2.59 mmol, 0.86 g | C(C)OC(=O)N1CCC(CC1)C1=CN(C2=NC=CC=C21)CCOC | C18H25N3O3
reactant | potassium hydroxide | 25.9 mmol, 1.71 g | [OH-].[K+]
solvent | isopropanol | 25 ml | C(C)(C)O | C3H8O
product | 1-(2-methoxyethyl)-3-piperidinyl-1H-pyrrolo[2,3-b]pyridine | COCCN1C=C(C=2C1=NC=CC2)N2CCCCC2 | C15H21N3O
